US07446118B2
To a room temperature solution of [3-(1H-Indazol-7-yl)-3-phenyl-propyl]-methyl-amine trifluoroacetate CCLX (243 mg, 0.64 mmol) in DCM (20 ml) was added (BOC)2O (140 mg, 0.641 mmol) and TEA (0.48 ml, 1.28 mmol). The resulting mixture was stirred for 24 hours at room temperature, then diluted with DCM (30 ml) and washed successively with H2O, a saturated aqueous NaHCO3 and brine. The organic layer was dried over MgSO4, filtered, and concentrated affording racemic [3-(1H-Indazol-7-yl)-3-phenyl-propyl]-methyl-carbamic acid ter-butyl ester CCLXI as a yellow oil in quantitative yield. The enantiomers CCLXI-A and CCLXI-B were separated via chiral preparative HPLC by multiple injections onto 30×250 mm ID Chiralpak IA preparative column using a mixture of 80/20 hexane/isopropanol at 16 ml/min, affording compound CCLXI-A (37% yield) and compound CCLXI-B (40%). MS (M+H)=266.

reactant | [3-(1H-Indazol-7-yl)-3-phenyl-propyl]-methyl-amine trifluoroacetate | FC(C(=O)O)(F)F.N1N=CC2=CC=CC(=C12)C(CCNC)C1=CC=CC=C1
reactant | (BOC)2O | 0.641 mmol, 140 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | racemic [3-(1H-Indazol-7-yl)-3-phenyl-propyl]-methyl-carbamic acid ter-butyl ester | quantitative yield | C(C)(C)(C)OC(N(C)CCC(C1=CC=CC=C1)C=1C=CC=C2C=NNC12)=O | C22H27N3O2
